US05780642
A solution of benzenesulphonyl chloride (0.25 g) in dichloromethane (3 ml) was added dropwise to a solution of N-{1-[4-(2-aminoethyl)phenyl]-1-methylethyl}-3-(imidazol-1-yl)propylamine (0.4 g) in dichloromethane (7 ml) with stirring at 0° C. The mixture was treated in a similar manner to Example 55 to give N-[2-(4-{1-[3-(imidazol-1-yl)propylamino]-1-methylethyl}phenyl)ethyl]-benzenesulphonamide as an oil.

reactant | benzenesulphonyl chloride | 0.25 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N-{1-[4-(2-aminoethyl)phenyl]-1-methylethyl}-3-(imidazol-1-yl)propylamine | 0.4 g | NCCC1=CC=C(C=C1)C(C)(C)NCCCN1C=NC=C1 | C17H26N4
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | N-[2-(4-{1-[3-(imidazol-1-yl)propylamino]-1-methylethyl}phenyl)ethyl]-benzenesulphonamide | N1(C=NC=C1)CCCNC(C)(C)C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=CC=C1 | C23H30N4O2S
